US07329659B2
2-Chloro-3-(1-fluoro-1-methylethyl)pyridine
To a solution of 2-(2-chloro-3-pyridinyl)propan-2-ol (1 g; 5.83 mmol) in dichloromethane (10 mL) cooled to −70° C. was added diethylaminosulphur trifluoride (1.1272 g; 0.857 mL; 6.993 mmol) dropwise. On completion of the addition the reaction mixture was allowed to warm to room temperature and stir for 30 min. TLC showed starting material consumed. The reaction mixture was poured onto sodium carbonate solution and extracted with dichloromethane. The dichloromethane extracts were combined, washed with water, dried over magnesium sulphate filtered and evaporated under reduced pressure to give an oil. Yield=0.9 g. 1H NMR (360 MHz) DMSO-d6 δ: 1.83 (3H, s), 1.89 (3H, s), 7.30 (1H, dd, J 4.6 and 7.7 Hz), 8.00 (1H, dd, J 1.9 and 7.9 Hz), 8.34 (1 H, dd, J 1.9 and 4.7 Hz).

reactant | 2-(2-chloro-3-pyridinyl)propan-2-ol | 5.83 mmol, 1 g | ClC1=NC=CC=C1C(C)(C)O | C8H10ClNO
reactant | diethylaminosulphur trifluoride | 6.993 mmol, 0.857 mL, 1.1272 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Chloro-3-(1-fluoro-1-methylethyl)pyridine | ClC1=NC=CC=C1C(C)(C)F | C8H9ClFN
